US05091407
Sodium hydride (0.63 g, 0.013 mol) was washed with petrol 60°-80° and suspended in DMF (30 ml) under nitrogen. To this methyl (2-styrylpyrrol-1-yl)acetate (1.6 g, 0.0066 mol) and methyl formate (8.2 ml, 0.13 mol) in DMF (10 ml) was added dropwise at room temperature. After 4 hours it was poured into 200 ml of saturated sodium bicarbonate, extracted with diethyl ether (2×100 ml), then the aqueous layer was neutralised with concentrated hydrochloric acid and extracted again with diethyl ether (2×100 ml). This was washed with brine, dried and evaporated to give methyl 3-hydroxy-2-[(E)-2-styrylpyrrol-1-yl]acrylate (2.Og) as an orange-yellow oil. This was used in the following reaction without further purification.

reactant | Sodium hydride | 0.013 mol, 0.63 g | [H-].[Na+]
reactant | methyl (2-styrylpyrrol-1-yl)acetate | 0.0066 mol, 1.6 g | C(=CC1=CC=CC=C1)C=1N(C=CC1)CC(=O)OC | C15H15NO2
reactant | methyl formate | 0.13 mol, 8.2 ml | C(=O)OC | C2H4O2
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 3-hydroxy-2-[(E)-2-styrylpyrrol-1-yl]acrylate | OC=C(C(=O)OC)N1C(=CC=C1)\C=C\C1=CC=CC=C1 | C16H15NO3
